US07384934B2
2-(4,5-Difluoro-2-nitro-phenylamino)-5-methyl-thiophene-3-carbonitrile
Add sodium hydride, 60% dispersion in mineral oil (55.0 g×60%=33.0 g, 1.38 mol) to THF (950 mL) with stirring at 0-5° C. under nitrogen. Add a solution of 2-amino-5-methyl-thiophene-3-carbonitrile (95.0 g, 0.687 mol) and 1,2,4-trifluoro-5-nitro-benzene (121.7 g, 0.687 mol) in THF (1325 mL) dropwise over ˜1 hour, keeping the temperature below 10° C. Allow the reaction to warm to ambient temperature and stir for 8-20 hours. Cool to 10-15° C. and add aqueous 1N HCl (550 mL) dropwise over 10-15 minutes to adjust the pH to 7.0-7.2, keeping the pot temperature below 15° C. Remove most of the organic portion under reduced pressure, and then filter and rinse with water. Dry at 50-60° C. to obtain the crude product. Purify by flash chromatography, eluting with 1:1/methylene chloride:heptane to give 89.1 g (44%) of the title compound. 1H NMR (400 MHz, DMSO-d6) δ 9.77 (bs, 1H), 8.33 (m, 1H), 7.09 (s, 1H), 7.07 (m, 1H), 2.47 (s, 3H). HRMS (ES) exact mass M+H calcd for C12H7F2N3O2S 318.0125; found 318.0133.

reactant | sodium hydride | [H-].[Na+]
reactant | 2-amino-5-methyl-thiophene-3-carbonitrile | 0.687 mol, 95.0 g | NC=1SC(=CC1C#N)C | C6H6N2S
reactant | 1,2,4-trifluoro-5-nitro-benzene | 0.687 mol, 121.7 g | FC1=C(C=C(C(=C1)[N+](=O)[O-])F)F | C6H2F3NO2
reactant | HCl | 1N, 550 mL | Cl | ClH
solvent | THF | 1325 mL | C1CCOC1 | C4H8O
solvent | THF | 950 mL | C1CCOC1 | C4H8O
product | 2-(4,5-Difluoro-2-nitro-phenylamino)-5-methyl-thiophene-3-carbonitrile | 89.1 g, 44% | FC1=CC(=C(C=C1F)NC=1SC(=CC1C#N)C)[N+](=O)[O-] | C12H7F2N3O2S
